US08685969B2
7. 2-(Hydroxymethyl)-5-methylbenzoic acid
A colorless, homogeneous solution of 6-methylisobenzofuran-1(3H)-one (0.95 g, 6.41 mmol), KOH (0.576 g, 10.26 mmol) in methanol (20.52 mL) and water (5.13 mL) was refluxed. After two hr, the reaction was cooled to room temperature, concentrated in vacuo, and acidified with 1 M aqueous KHSO4 to pH ˜3. The mixture was extracted with EtOAc (4×50 mL). The combined extract was dried over MgSO4 and concentrated in vacuo to give the desired product (0.632 g, 3.81 mmol, 59.4% yield) as a white solid.

reactant | 6-methylisobenzofuran-1(3H)-one | 6.41 mmol, 0.95 g | CC1=CC=C2COC(C2=C1)=O | C9H8O2
reactant | KOH | 10.26 mmol, 0.576 g | [OH-].[K+]
solvent | methanol | 20.52 mL | CO | CH4O
solvent | water | 5.13 mL | O | H2O
product | 2-(Hydroxymethyl)-5-methylbenzoic acid | 3.81 mmol, 0.632 g, 59.4% yield | OCC1=C(C(=O)O)C=C(C=C1)C | C9H10O3
